US06887889B2
To a stirred solution of 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.10 g, 0.24 mmol) in CH2Cl2 (0.5 mL) at room temperature under Ar was added a solution of 3,5-difluorophenylacetyl chloride (0.28 mL of a 1 M solution in CH2Cl2, 0.28 mmol) followed by pyridine (0.25 mL). The mixture was stirred at room temperature for 16 h then diluted with EtOAc (5 mL) and washed with saturated aqueous NaHCO3 (5 mL) and saturated brine (5 mL) and dried over Na2SO4. Filtration and rotary evaporation gave the crude 4-{[2-(3,5-difluoro-phenyl)-acetylamino]-methyl}-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.09 g, ˜65%).

reactant | 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.24 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CN | C17H25IN2O2
reactant | 3,5-difluorophenylacetyl chloride | FC=1C=C(C=C(C1)F)CC(=O)Cl | C8H5ClF2O
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 4-{[2-(3,5-difluoro-phenyl)-acetylamino]-methyl}-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.09 g, ~65% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CNC(CC1=CC(=CC(=C1)F)F)=O | C25H29F2IN2O3
